US04016274
A 3.16N solution (6.7 cc.) of sodium methoxide in methanol is added to a suspension of 1-methylpiperazine-1-oxide dihydrochloride (2.0 g.) in anhydrous methanol (10 cc.). After stirring for 10 minutes at 25° C., the suspension is treated with decolourising charcoal (0.1 g.) and then filtered. The methanolic filtrate is evaporated under reduced pressure (20 mm.Hg) at 40° C. maximum. The oily residue (2.0 g.) is dissolved in anhydrous acetonitrile (50 cc.) and 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one (2.15 g.) is added. The reaction mixture is heated for 4 hours at 50° C. and then stirred for 48 hours at a temperature of about 25° C., filtered and concentrated under reduced pressure. The residue (3.8 g.) is dissolved in methylene chloride (50 cc.). The solution is passed through a column of Merck silica (0.02 -0.05) (60 g.). Elution is carried out successively with methylene chloride (50 cc.), ethyl acetate (50 cc.), a mixture (50 cc.) of ethyl acetate and methanol (80-20 volume), a mixture (50 cc.) of ethyl acetate and methanol (50--50 by volume), and finally with the same mixture of solvents (100 cc.). This last fraction is evaporated under reduced pressure. The residue obtained (0.9 g., m.p. about 200° C.) is dissolved in acetonitrile (10 cc.) and distilled water (1 cc.), near the boiling point. After cooling to 2° C., the crystals which have appeared are filtered off, washed with ice-cold acetonitrile (0.5 cc.) and dried under reduced pressure (20 mm.Hg). 4-{[2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-isoindolin-1-yl]oxycarbonyl{-1-methyl-piperazine-1-oxide dihydrate (0.62 g.), melting at about 200° C. (decomposition), is obtained.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 1-methylpiperazine-1-oxide dihydrochloride | 2.0 g | Cl.Cl.C[N+]1(CCNCC1)[O-]
reactant | charcoal | 0.1 g | C | CH4
solvent | methanol | CO | CH4O
solvent | methanol | 10 cc | CO | CH4O
solvent | acetonitrile | 10 cc | C(C)#N | C2H3N
product | 1-methyl-piperazine-1-oxide dihydrate | 0.62 g | O.O.C[N+]1(CCNCC1)[O-] | InChI=1S/C5H12N2O.2H2O/c1-7(8)4-2-6-3-5-7;;/h6H,2-5H2,1H3;2*1H2
